US05131947
Synthesis of 4-ethyl-3-(3-cyanophenyl)-1-(3-trifluoromethylphenyl)-2-pyrrolidinone (Compound No. 35)
To 10 ml of 1,3-dimethyl-2-imidazolidinone, 0.7 g of 4-ethyl-3-(3-bromophenyl)-1-(3-trifluoromethylphenyl)-2-pyrrolidinone (Compound No. 25) and 1.2 g of cuprous cyanide were added. After the resultant mixture was stirred at 160° C. for 4 hours, the insoluble matter was filtered off from the reaction mixture and the filtrate was poured into water, followed by extraction with toluene. The extract was dried over anhydrous sodium sulfate, concentrated in an evaporator, and then purified by chromatography on a silica gel column, whereby 0.35 g of the title compound was obtained.

reactant | 4-ethyl-3-(3-bromophenyl)-1-(3-trifluoromethylphenyl)-2-pyrrolidinone | 0.7 g | C(C)C1C(C(N(C1)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC(=CC=C1)Br | C19H17BrF3NO
reactant | 1,3-dimethyl-2-imidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 4-ethyl-3-(3-cyanophenyl)-1-(3-trifluoromethylphenyl)-2-pyrrolidinone | 0.35 g | C(C)C1C(C(N(C1)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC(=CC=C1)C#N | C20H17F3N2O
